US06136810
7-Acetyl-4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one (1.62 g, 495 mmol) and 30 ml of methyl orthoformate were dissolved in 30 ml of methanol, a catalytically effective amount of Dowex-50W-X4 was added thereto, followed by heating overnight under reflux. After cooling to room temperature, insoluble matter was removed by filtration and the solvent was evaporated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (toluene-ethyl acetate) and recrystallized from diisopropyl ether to give 1.27 g (69%) of 4-(3-chlorophenyl)-1-ethyl-7-(1,1-dimethoxyethyl)pyrido[2,3-d]pyrimidin-2(1H)-one.

reactant | 7-Acetyl-4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one | 495 mmol, 1.62 g | C(C)(=O)C=1C=CC2=C(N(C(N=C2C2=CC(=CC=C2)Cl)=O)CC)N1 | C17H14ClN3O2
reactant | methyl orthoformate | 30 ml | C(OC)([O-])[O-]
reactant | methanol | 30 ml | CO | CH4O
product | 4-(3-chlorophenyl)-1-ethyl-7-(1,1-dimethoxyethyl)pyrido[2,3-d]pyrimidin-2(1H)-one | 1.27 g, 69% | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C(C)(OC)OC | C19H20ClN3O3
